US09428490B2
(Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (0.250 g, 1.0 eq.) was dissolved in DCM (12 mL). tert-butyl 6-amino-3-azabicyclo[3.1.0]hexane-3-carboxylate (0.17 g, 1.2 eq.) was added and the reaction mixture was cooled to −60° C. T3P (0.51 mL, 1.2 eq.), followed by DIPEA (0.24 mL, 2.0 eq.) was then added at the same temperature. The reaction mixture was stirred for 30 min. and transferred into water (50 mL) and extracted with DCM (2×50 mL). The combined organic layer was washed with brine (50 mL), dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure (25° C., 20 mmHg) to afford crude product, which was purified by chromatography (0-5% MeOH in DCM) to give (Z)-tert-butyl 6-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylamido)-3-azabicyclo[3.1.0]hexane-3-carboxylate (0.28 g; 66.1% yield).

reactant | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.250 g, 1.0 eq. | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O)(F)F | C13H7F6N3O2
reactant | tert-butyl 6-amino-3-azabicyclo[3.1.0]hexane-3-carboxylate | 0.17 g, 1.2 eq. | NC1C2CN(CC12)C(=O)OC(C)(C)C | C10H18N2O2
reactant | T3P | 0.51 mL, 1.2 eq. | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIPEA | 0.24 mL, 2.0 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | (Z)-tert-butyl 6-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylamido)-3-azabicyclo[3.1.0]hexane-3-carboxylate | 0.28 g, 66.1% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)NC1C2CN(CC12)C(=O)OC(C)(C)C)(F)F | C23H23F6N5O3
